US04410539
Sodium hydride (0.24 g. of 50% dispersion in mineral oil) was added portionwise to a solution of 5-hydroxybenzo[b]thiophene-2-carboxylic acid methyl ester (1.04 g.) in dry N,N-dimethylformamide (10 ml.) and the mixture was stirred at room temperature for 30 minutes. 3-Chloromethylpyridine (0.65 g.) in dry N,N-dimethylformamide (5 ml.) was then added and the mixture was stirred at room temperature for 1 hour, and then poured into water. The mixture was extracted several times with ethyl acetate and the combined extracts were washed well with water and dried (Na2SO4). Evaporation of the solvent gave a solid which was washed with petrol and crystallized from isopropanol to give 5-(3-pyridylmethoxy)benzo[b]thiophene-2-carboxylic acid methyl ester (0.80 g.), m.p. 126°-127° C.

reactant | Sodium hydride | 0.24 g | [H-].[Na+]
reactant | 5-hydroxybenzo[b]thiophene-2-carboxylic acid methyl ester | 1.04 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)O | C10H8O3S
reactant | 3-Chloromethylpyridine | 0.65 g | ClCC=1C=NC=CC1 | C6H6ClN
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-(3-pyridylmethoxy)benzo[b]thiophene-2-carboxylic acid methyl ester | 0.80 g | COC(=O)C1=CC2=C(S1)C=CC(=C2)OCC=2C=NC=CC2 | C16H13NO3S
